US04689341
(±)-1-[2-Hydroxy-2-[4-((methylsulfonyl)amino)phenyl]ethyl]-3-methyl-1H-imidazolium chloride
A solution of 152.3 g (0.463 mole) of 3-methyl-1[2-[4-((methylsulfonyl)amino)phenyl]-2-oxoethyl]-1H-imidazolium chloride in 1 L of distilled water and 7.62 g 10% Pd/C catalyst are placed in a 2 L Parr bottle and hydrogenated at 50 psi pressure for ca. 5 hours.

reactant | 3-methyl-1[2-[4-((methylsulfonyl)amino)phenyl]-2-oxoethyl]-1H-imidazolium chloride | 0.463 mole, 152.3 g | [Cl-].CN1C[NH+](C=C1)CC(=O)C1=CC=C(C=C1)NS(=O)(=O)C
solvent | water | 1 L | O | H2O
catalyst | Pd/C | 7.62 g | [Pd] | Pd
product | (±)-1-[2-Hydroxy-2-[4-((methylsulfonyl)amino)phenyl]ethyl]-3-methyl-1H-imidazolium chloride | [Cl-].OC(C[NH+]1CN(C=C1)C)C1=CC=C(C=C1)NS(=O)(=O)C | InChI=1S/C13H19N3O3S.ClH/c1-15-7-8-16(10-15)9-13(17)11-3-5-12(6-4-11)14-20(2,18)19;/h3-8,13-14,17H,9-10H2,1-2H3;1H
